US07968570B2
A mixture of 7-chloro-5-ethenyl-2-(4-fluoro-benzyl)-2,3-dihydro-isoindol 1-one (0.134 g, 0.45 mmol) and 10% palladium on carbon (20 mg) in ethanol (25 mL) was reduced under 45 p.s.i. hydrogen. Workup and silica gel column chromatography using combinations 3:1 hexane-ethyl acetate afforded 7-chloro-5-ethyl-2-(4-fluoro-benzyl)-2,3-dihydro-isoindol-1-one (0.068 g, 50%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.24 (t, 3H), 2.68 (q, 2H), 4.19 (s, 2H), 4.74 (s, 2H), 6.98-7.32 (m, 6H). GC-MS: m/z 303 (M)+.

reactant | 7-chloro-5-ethenyl-2-(4-fluoro-benzyl)-2,3-dihydro-isoindol 1-one | 0.45 mmol, 0.134 g | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)F)C=C | C17H13ClFNO
reactant | hydrogen | [H][H] | H2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 7-chloro-5-ethyl-2-(4-fluoro-benzyl)-2,3-dihydro-isoindol-1-one | 0.068 g, 50% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)F)CC | C17H15ClFNO
